US04920132
A mixture of 1.2 g (3.28 mmol) of 3-[3-(2-quinolinylmethyloxy)benzyloxy]benzonitrile, 1.89 g (16.4 mmol) of pyridine hydrochloride, and 1.06 g (16.4 mmol) of sodium azide in 10 ml of DMF is heated at 100° C. for 4 days. The reaction mixture is poured into water. The crude product collected on a filter and recrystallized from ethyl acetate to give 5-[3-(3-(2-quinolinylmethyloxy)benzyloxy)phenyl] tetrazole. (M.P. 169°-172° C.)

reactant | 3-[3-(2-quinolinylmethyloxy)benzyloxy]benzonitrile | 3.28 mmol, 1.2 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(COC=2C=C(C#N)C=CC2)C=CC1 | C24H18N2O2
reactant | pyridine hydrochloride | 16.4 mmol, 1.89 g | Cl.N1=CC=CC=C1
reactant | sodium azide | 16.4 mmol, 1.06 g | [N-]=[N+]=[N-].[Na+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-[3-(3-(2-quinolinylmethyloxy)benzyloxy)phenyl] tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(COC=2C=C(C=CC2)C2=NN=NN2)C=CC1 | C24H19N5O2
